US04012414
A mixture of 30 g (0.12 mole) of methyl 5-(4-acetylphenyl)-2-furimidate and 500 ml of saturated ethereal/HCl was stirred for 2 hrs. at room temperature and the resulting solid filtered. A mixture of this solid, 12.6 g (0.12 mole) of aminoacetaldehyde dimethyl acetal and 500 ml of methanol was refluxed for 3 hr. with the resulting solution being treated with Darco and filtered hot. The filtrate was taken to dryness on the Calab evaporator yielding a residual solid. This solid was dissolved in refluxing methanol (Darco), filtered and the filtrate cooled to room temperature. The filtrate was diluted with ether and the resulting solid filtered and air dried to yield 24 g (57%) of 5-(4-acetylphenyl)-N'-2,2-dimethoxyethyl-2-furamidine hydrochloride.

reactant | methyl 5-(4-acetylphenyl)-2-furimidate | 0.12 mole, 30 g | C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C(OC)=N | C14H13NO3
reactant | HCl | Cl | ClH
reactant | aminoacetaldehyde dimethyl acetal | 0.12 mole, 12.6 g | COC(CN)OC | C4H11NO2
reactant | Darco | C | CH4
solvent | methanol | CO | CH4O
solvent | methanol | 500 ml | CO | CH4O
product | 5-(4-acetylphenyl)-N'-2,2-dimethoxyethyl-2-furamidine hydrochloride | 24 g, 57% | Cl.C(C)(=O)C1=CC=C(C=C1)C1=CC=C(O1)C(=NCC(OC)OC)N | InChI=1S/C17H20N2O4.ClH/c1-11(20)12-4-6-13(7-5-12)14-8-9-15(23-14)17(18)19-10-16(21-2)22-3;/h4-9,16H,10H2,1-3H3,(H2,18,19);1H
